Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
morphine
 
Attending: ___
 
Chief Complaint:
Type A Aortic Dissection
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo F with history of afib on apixaban and HTN who originally
presented to ___ 3 days ago with chest pain and 
AMS,
found to have type A aortic dissection, transferred to ___ for
C Surg eval, and now CMO after discussion between Cardiac
Surgery, patient and family.

Pt originally presented to ___ with chest pain and acute
mental status changes I/s/o cognitive impairment. There she was
treated for a UTI (initially with CTX, then meropenem when UCx
grew ESBL) and had intermittent CP and wheezing throughout stay.
On ___ was found to have type A dissection on CT chest, at 
which
point she was xfr'd. BP was managed with IV labetolol 100 mg
boluses. At time of xfr she had SBP in 150s and was
hemodynamically stable.

Upon arrival to the ED she denied CP and dyspnea. Blood 
pressures
in the ED were stable without intervention. She reportedly was 
on
BiPAP for comfort but does not need it from a respiratory
standpoint.

Seen by Cardiology and ___. Dr. ___ imaging with
patient and family, and after discussion the patient and family
declined the high risk procedure in light of the patient's age,
frailty and quality of life goals. She was made CMO and is being
admitted, with potential for transition to hospice. 

In the ED, initial VS were: 99.2 58 117/62 18 97% RA 

Exam notable for: "BP 122/___ppearing"

Labs showed: trop T 0.03, Na 128, K 5.5, AG 19, WBC 26, pH 7.36
on VBG, UA with few WBC and neg leuks and nitrite.

Imaging showed:
CT chest from OSH with type A dissection

CXR IMPRESSION:  
-Dense retrocardiac opacity, likely combination of left lower
lobe 
consolidation/pneumonia and small pleural effusion as seen on
prior chest CT. 
-Mild pulmonary edema. 
-Known thoracic aortic dissection is better seen on the CT from
the same day. 
-Mild cardiomegaly. 

Received:
___ 00:02 IV Piperacillin-Tazobactam  ___
Started  
___ 00:02 IH Albuterol 0.083% Neb Soln 1 NEB 
___  
___ 00:47 IV Piperacillin-Tazobactam 4.5 g ___ 
___
Stopped (___)  
___ 00:55 IV Vancomycin  ___ Started  
___ 00:55 IH Albuterol 0.083% Neb Soln 1 NEB 
___  
___ 00:55 IH Ipratropium Bromide Neb 1 NEB ___ 
___

___ 02:02 IV Vancomycin 1 mg ___ Stopped (1h
___  
___ 03:42 IV Acetaminophen IV 1000 mg ___   

Transfer VS were:
Today 03:42 right arm 95 101/67 25 98% Nasal Cannula 
Today 03:43 left arm  94 102/67 27 99% Nasal Cannula 
4:55 ___ 22 Nasal Cannula 

On arrival to the floor, patient reports bilateral shoulder pain
(chronic). She denies chest pain, SOB or other symptoms
currently. She has not been able to sleep much during the past 3
days.
 
Past Medical History:
GOUT 
CHRONIC PAIN 
NEUROPATHY 
HYPERTENSION 
REFLUX ESOPHAGITIS 
CONSTIPATION 
VITAMIN D DEFICIENCY 
ESOPHAGEAL MASS 
POLYMYALGIA RHEUMATICA 
ATRIAL FIBRILLATION 
SACRAL INSUFFICIENCY FRACTURE 
ESOPHAGEAL STRICTURE 
AVASCULAR NECROSIS 
GLAUCOMA 
? TRANSIENT ISCHEMIC ATTACK 
OSTEOPOROSIS
 
Social History:
___
Family History:
Sister COLON CANCER  
Mother COLON CANCER 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  97.6PO 102 / 66 R Lying 93 20 98 3l 
GENERAL: NAD  
HEENT: AT/NC
NECK: no JVD  
HEART: irregular rhythm, no murmur 
LUNGS: clear anteriorly 
ABDOMEN:soft, nondistended, nontender in all quadrants
EXTREMITIES: b/l ___ edema; tender 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no rashes

DISCHARGE PHYSICAL EXAM:
Vitals: 147/63 127 18 84 2l 
GENERAL: Appears very comfortable, NAD  
HEENT: AT/NC, anicteric scelera
NECK: no JVD
HEART: tachycardic on auscultation, irregularly irregular
LUNGS: clear anteriorly, no wheezes or crackles appreciated
ABDOMEN: soft, nondistended, nontender
EXTREMITIES: b/l ___ edema; tender 
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no rashes  
 
Pertinent Results:
ADMISSION LABS
==============

___ 06:05PM BLOOD WBC-26.8*# RBC-3.75* Hgb-11.6 Hct-35.3 
MCV-94 MCH-30.9 MCHC-32.9 RDW-15.4 RDWSD-52.9* Plt ___
___ 06:05PM BLOOD Neuts-87.0* Lymphs-3.6* Monos-8.2 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-23.28*# AbsLymp-0.96* 
AbsMono-2.20* AbsEos-0.00* AbsBaso-0.06
___ 06:05PM BLOOD Hypochr-NORMAL Anisocy-1+* Poiklo-NORMAL 
Macrocy-1+* Microcy-NORMAL Polychr-NORMAL
___ 06:05PM BLOOD ___ PTT-37.3* ___
___ 06:05PM BLOOD Plt Smr-NORMAL Plt ___
___ 12:47AM BLOOD Glucose-138* UreaN-27* Creat-0.9 Na-128* 
K-5.5* Cl-90* HCO3-19* AnGap-19*
___ 11:49PM BLOOD cTropnT-0.02*
___ 07:50PM BLOOD cTropnT-0.03*
___ 07:50PM BLOOD Calcium-9.1 Phos-4.6* Mg-1.8
___ 06:17PM BLOOD Lactate-2.1*

___ 11:18PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:18PM URINE RBC-1 WBC-1 Bacteri-FEW* Yeast-NONE Epi-1

IMAGING
=======
___ CXR: -Dense retrocardiac opacity, likely combination of 
left lower lobe 
consolidation/pneumonia and small pleural effusion as seen on 
prior chest CT. 
-Mild pulmonary edema. 
-Known thoracic aortic dissection is better seen on the CT from 
the same day. 
-Mild cardiomegaly. 

DISCHARGE LABS
==============

___ 07:07AM BLOOD WBC-13.1* RBC-3.26* Hgb-10.4* Hct-30.9* 
MCV-95 MCH-31.9 MCHC-33.7 RDW-15.2 RDWSD-53.4* Plt ___
___ 01:07AM BLOOD Neuts-88.9* Lymphs-4.2* Monos-5.9 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-17.00* AbsLymp-0.80* 
AbsMono-1.13* AbsEos-0.00* AbsBaso-0.03
___ 07:07AM BLOOD Plt ___
___ 07:07AM BLOOD Glucose-93 UreaN-36* Creat-0.9 Na-130* 
K-5.4* Cl-92* HCO3-23 AnGap-15
___ 07:07AM BLOOD Calcium-9.0 Phos-4.3 Mg-2.___ yo woman with history of afib on apixaban and HTN who 
originally presented to ___ with chest pain and 
AMS, found to have type A aortic dissection, transferred to 
___ for C Surg eval, and now DNR/DNI after discussion between 
Cardiac Surgery, patient and family, going home with hospice.

TRANSITIONAL ISSUES
===================
- She will need follow-up with her primary care doctor, ___ 
___, to address any issues the patient will have following her 
hospitalization. These include medications for pain/comfort and 
reducing her pill burden as needed.

#CODE STATUS: DNR/DNI
#CONTACT: daughter ___ ___
#DISPO: Medicine for now, eventually home with hospice 

ACUTE ISSUES:
=============
#Goals of Care:
A family meeting was held on ___ where the patient collectively 
with family determined that her preference is go home with 
hospice. Her medications were reconciled to reduce her pill 
burden and she was seen by Palliative Care to further address 
any outstanding questions she would have. In house, she was kept 
comfortable by providing supportive breathing treatments, 
oxygen, and medications to reduce pain/discomfort. Tylenol, 
tramadol, and gabapentin were given for pain. She had PRN 
hydromorphone as well given allergy to morphine, however, she 
did not require any. She was also given ramelteon to aid with 
sleep. Discharge home on supportive O2 for comfort.

#Type A Aortic Dissection:
On admission, her imaging and case were reviewed with Cardiac 
surgery. She was determined to not be a surgical candidate. She 
remained hemodynamically stable and was given labetalol 100mg 
BID, which was given primarily for comfort and to reduce chest 
pain secondary to aortic dissection. She was also continued on 
tramadol for pain.

#UTI: +UCx at OSH. At the outside hospital, she grew ESBL (E. 
coli), treated with meropenem initially. At ___, this was 
treated with zosyn and fosfomycin.

#Hyponatremia. Likely hypovolemic hyponatremia on admission 
secondary to dehydration. She received IV fluids for this.

CHRONIC ISSUES:
===============
#AFib: continued on labetalol, which was started in the 
hospital, and home amiodarone, given patient's preference at 
time of discharge. Apixaban was discontinued given overall goals 
of care.
#Hypothyroidism: continued on levothyroxine per patient 
preference
#Osteoporosis: continued on vitamin D and forteo injections per 
patient preference at discharge
#HTN: continued on labetalol and amiodarone as above
#AMD:
#Neuropathy: continued on gabapentin for pain

# CONTACT: daughter ___ ___
# CODE: DNR, pt CMO

More than 30minutes spent on discharge process, including 
treatment and disposition planning, as well as education 
provided to family. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q8H 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Amiodarone 100 mg PO EVERY OTHER DAY 
5. Gabapentin 100 mg PO QAM 
6. Gabapentin 400 mg PO QHS 
7. Vitamin D 200 UNIT PO BID 
8. PreserVision Lutein (vit C-vit E-copper-zinc-lutein) 226 
mg-200 unit -5 mg-0.8 mg oral DAILY 
9. Forteo (teriparatide) 20 mcg/dose - 600 mcg/2.4 mL 
subcutaneous DAILY 
10. Apixaban 2.5 mg PO BID 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. TraMADol 25 mg PO WEEKLY PRN Pain - Moderate 

 
Discharge Medications:
1.  Ipratropium Bromide Neb 1 NEB IH Q6H:PRN wheezing 
RX *ipratropium bromide 0.2 mg/mL  (0.02 %) 1 NEB INH every 6 
hours Disp #*30 Each Refills:*0 
2.  Labetalol 100 mg PO BID 
RX *labetalol 100 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0 
3.  TraMADol 25 mg PO Q4H:PRN Pain - Moderate 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every 4 
hours Disp #*30 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q8H  
5.  Allopurinol ___ mg PO DAILY  
6.  Amiodarone 100 mg PO EVERY OTHER DAY  
7.  Forteo (teriparatide) 20 mcg/dose - 600 mcg/2.4 mL 
subcutaneous DAILY  
8.  Gabapentin 100 mg PO QAM  
9.  Gabapentin 400 mg PO QHS  
10.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
11.  Levothyroxine Sodium 50 mcg PO DAILY  
12.  PreserVision Lutein (vit C-vit E-copper-zinc-lutein) 226 
mg-200 unit -5 mg-0.8 mg oral DAILY  
13.  Vitamin D 200 UNIT PO BID  
14.Oxygen
Please provide home O2, titrate to comfort. ICD10 = ___.03 
(Thoracic Aortic Dissection).

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Type A Aortic Dissection

SECONDARY DIAGNOSES: hypertension, atrial fibrillation, gout, 
chronic pain, constipation
 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,  
You came to ___ because of chest pain and discomfort. You were 
found to have a tear in one of the large blood vessels that 
pumps blood from the heart. Please see more details listed below 
about what happened while you were in the hospital and your 
instructions for what to do after leaving the hospital.  
It was a pleasure participating in your care. We wish you the 
best!  

Sincerely,  

Your ___ Care Team  

WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL:  
- You were given medications for pain
- Home with hospice care was arranged
WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL:  
- Please follow up with your primary care doctor, ___.
- Please take all of your medications as prescribed (see below). 
   

 
Followup Instructions:
___